US07235559B1
5-Amino-2-[(4-fluoro-3-chlorophenyl)methoxy]-pyrimidine used as the starting material above was obtained as follows:
Sodium hydride (60% dispersion in oil-50 mg, 1.25 mmol) was added to a solution of 3-chloro-4-fluorobenzyl alcohol (177 mg, 1.1 mmol) in tetrahydrofuran (5 ml) under an atmosphere of nitrogen. After 10 minutes, 2-chloro-5-nitropyrimidine (159 mg, 1 mmol) was added and the reaction heated at reflux for 2 hours before quenching by the addition of methanol (1 ml). Purification by flash chromatography on silica gel, eluting with 12% ethyl acetate in isohexane yielded the title compound (86 mg, 30% yield):

reactant | Sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 3-chloro-4-fluorobenzyl alcohol | 1.1 mmol, 177 mg | ClC=1C=C(CO)C=CC1F | C7H6ClFO
reactant | 2-chloro-5-nitropyrimidine | 1 mmol, 159 mg | ClC1=NC=C(C=N1)[N+](=O)[O-] | C4H2ClN3O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-Amino-2-[(4-fluoro-3-chlorophenyl)methoxy]-pyrimidine | 86 mg, 30% yield | NC=1C=NC(=NC1)OCC1=CC(=C(C=C1)F)Cl | C11H9ClFN3O
